US06852730B2
A solution of 4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid (2.25 g, 12 mmol), 1-(3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride (2.87 g, 15 mmol), DMAP (1.83 g, 15 mmol), and DMF (10 mL) in dichloromethane (40 mL) is stirred under nitrogen at 20° C. for 2 hours. 6-(3-Diethylamino-propoxy)-pyridin-3-ylamine (2.50 g, 11.2 mmol) is added. The mixture is stirred under nitrogen at 40° C. for 24 hours; and then poured into 10% NaCl, treated with 1 M sodium carbonate to pH 10, and extracted with chloroform (100 mL). The solution is concentrated, diluted with xylenes (100 mL), and the volatiles are thoroughly evaporated under reduced pressure. The residue is purified by column chromatography on silica gel using a mixture of chloroform-methanol-30% ammonium hydroxide (90:9:1, v/v/v) as an eluent and the residue is recrystallized from ethyl acetate to give pure 4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid [6-(3-diethylamino-propoxy)-pyridin-3-yl]-amide. 1H NMR (CD3OD) t, J=7.1 Hz, 6H), 1.97 (m, 2H), 2.25 (quintet, J=6.3 Hz, 2H), 2.62 (q, J=7.1 Hz, 4H), 2.71 (m, 4H), 2.99 (t, J=6.3 Hz, 2H), 4.03 (t, J=6.3 Hz, 2H), 6.81 (dd, J=8.9 and 0.5 Hz, 1H), 8.12 (dd, J=8.9 and 2.7 Hz, 1H), 8.56 (dd, J=2.7 and 0.5 Hz, 1H). MW 385.471; MS (M−H)− 384.

reactant | 4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid | 12 mmol, 2.25 g | O=C1C=2C(=NNC2CCC1)C(=O)O | C8H8N2O3
reactant | 3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride | 15 mmol, 2.87 g | Cl.CN(CCCN=C=NCC)C
reactant | 6-(3-Diethylamino-propoxy)-pyridin-3-ylamine | 11.2 mmol, 2.50 g | C(C)N(CCCOC1=CC=C(C=N1)N)CC | C12H21N3O
reactant | NaCl | [Na+].[Cl-]
reactant | sodium carbonate | 1 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | DMAP | 15 mmol, 1.83 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid [6-(3-diethylamino-propoxy)-pyridin-3-yl]-amide | C(C)N(CCCOC1=CC=C(C=N1)NC(=O)C1=NNC=2CCCC(C12)=O)CC | C20H27N5O3
